US05708008
5-(N,N-dimethylamino)sulfonylamino-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole
Beginning with 1.17 gm (4.89 mMol) 5-(N,N-dimethylamino)sulfonylamino-1H-indole and 0.78 mL (6.4 mMol) 1-methyl-4-piperidone, 1.19 gm (72.6%) of the title compound were recovered as a pale yellow powder.

reactant | 5-(N,N-dimethylamino)sulfonylamino-1H-indole | 4.89 mMol, 1.17 gm | CN(C)S(=O)(=O)NC=1C=C2C=CNC2=CC1 | C10H13N3O2S
reactant | 1-methyl-4-piperidone | 6.4 mMol, 0.78 mL | CN1CCC(CC1)=O | C6H11NO
product | 5-(N,N-dimethylamino)sulfonylamino-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 1.19 gm, 72.6% | CN(C)S(=O)(=O)NC=1C=C2C(=CNC2=CC1)C=1CCN(CC1)C | C16H22N4O2S
